US04476131
Diastereomers of 6-Hydroxy-8-(5-phenyl-2-pentyloxy)-3a,4-dihydro(2H,3H)-pyrrolo[1,2-a]quinolin-1,5-dione
Under anhydrous conditions and in a nitrogen atmosphere, 70 g. (0.30 mole) 6,8-dihydroxy-3a,4-dihydro-(2H,3H)-pyrrolo[1,2-a]quinolin-1,5-dione was dissolved in 750 ml. dimethylformamide by warming to 60° C. To the resulting deep red solution was added 51.6 g. (0.675 mole) potassium carbonate. The mixture was heated to 70° C., a solution of 2-methylsulfonyloxy-5-phenylpentane in 250 ml. dimethylformamide was added in a fast stream, and heated at 75°-80° C. for 12 hours. Additional portions of 2-methylsulfonyloxy-5-phenylpentane (5.3 g.) and potassium carbonate (3.8 g.) and heating continued at 75°-80° C. for two hours. The mixture was poured over a mixture (one liter each) ethyl acetate and ice and, after shaking in a separtory funnel, the layers were separated. The aqueous phase was extracted with 5×1000 ml. ethyl acetate. The combined organic layers were washed with 3×4 liters water, 3×2 liters of 0.5N hydrochloric acid, dried (MgSO4) and concentrated to a volume of about 2.5 liters. Upon cooling, the precipitated product which formed was collected: 9.0 g., M.P. 151°-153° C. The mother liquor was concentrated to half volume, cooled, and a second crop, 34.2 g., M.P. 148°-151° C., was collected. Total yield by crystallization: 52.2 g. This material was shown to be primarily a single diastereomer, designated as "Diastereomer B." Upon recrystallization from ethyl acetate, colorless crystals were obtained, M.P. 159°-161° C. This was found to be about 90% diastereomer B. 1H--NMR (CDCl3) ppm (delta): 1.33 (d, 3H, J=6 Hz).

reactant | 6,8-dihydroxy-3a,4-dihydro-(2H,3H)-pyrrolo[1,2-a]quinolin-1,5-dione | 0.30 mole | OC1=C2C(CC3N(C2=CC(=C1)O)C(CC3)=O)=O | C12H11NO4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.675 mole | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methylsulfonyloxy-5-phenylpentane | CS(=O)(=O)OC(C)CCCC1=CC=CC=C1 | C12H18O3S
reactant | 2-methylsulfonyloxy-5-phenylpentane | 5.3 g | CS(=O)(=O)OC(C)CCCC1=CC=CC=C1 | C12H18O3S
reactant | potassium carbonate | 3.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Hydroxy-8-(5-phenyl-2-pentyloxy)-3a,4-dihydro(2H,3H)-pyrrolo[1,2-a]quinolin-1,5-dione | OC1=C2C(CC3N(C2=CC(=C1)OC(C)CCCC1=CC=CC=C1)C(CC3)=O)=O | C23H25NO4
